US08071584B2
5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide
To a solution of 5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxylic acid (36 mg, 0.1 mmol) in DCM (5 mL) was added HOBt (16 mg, 0.12 mmol), and EDC.HCl (23 mg, 0.12 mmol) and 2 M NH3 in methanol (0.2 mL, 0.4 mmol). The mixture was kept overnight at RT. The mixture was concentrated, and EtOAc and aq. NaHCO3 were added. The aqueous layer was extracted with ethyl acetate once. The combined organic layers were dried (MgSO4) and concentrated to give 36 mg of the title compound.

reactant | 5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxylic acid | 0.1 mmol, 36 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)O)C1CS(CC1)(=O)=O | C13H12BrNO4S
reactant | HOBt | 0.12 mmol, 16 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.12 mmol, 23 mg | CCN=C=NCCCN(C)C.Cl
reactant | NH3 | 2 M | N | H3N
reactant | methanol | 0.4 mmol, 0.2 mL | CO | CH4O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-3-(1,1-dioxidotetrahydro-3-thienyl)-1H-indole-7-carboxamide | 36 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)N)C1CS(CC1)(=O)=O | C13H13BrN2O3S
